US08492549B2
[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-fluoro-piperidin-3-yl]methanol
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-fluoro-piperidine-3-carboxylic acid methyl ester (145 mg, 0.45 mmol) was dissolved in dry THF (4 ml), cooled to −20° C. and treated with LiAlH4 (34 mg, 0.90 mmol) for 3 h. Water (1 ml), 1 M NaOH (1 ml) and again water (1 ml) was added. The mixture was filtrated, concentrated and extracted with DCM three times. The organic layers were pooled and purified by flash chromatography (gradient of DCM/MeOH) to give 103 mg of the title compound.

reactant | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-fluoro-piperidine-3-carboxylic acid methyl ester | 0.45 mmol, 145 mg | COC(=O)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)F | C16H20FNO4
reactant | LiAlH4 | 0.90 mmol, 34 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | 1 ml | O | H2O
reactant | NaOH | 1 M, 1 ml | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | [1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-fluoro-piperidin-3-yl]methanol | 103 mg | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(F)CO | C15H20FNO3
